* Arm C oscillator 0: lumped D_NET caps
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" ss
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.temp 100
.param SUPPLY=1.6
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.6 2n 50p 50p 1 2)

* --- Arm C oscillator 0: nand + 30 inverters + tap buffer ---
Xnand EN n30 0 0 VPWR VPWR n0 sky130_fd_sc_hd__nand2_1
Xi1 n0 0 0 VPWR VPWR n1 sky130_fd_sc_hd__inv_1
Xi2 n1 0 0 VPWR VPWR n2 sky130_fd_sc_hd__inv_1
Xi3 n2 0 0 VPWR VPWR n3 sky130_fd_sc_hd__inv_1
Xi4 n3 0 0 VPWR VPWR n4 sky130_fd_sc_hd__inv_1
Xi5 n4 0 0 VPWR VPWR n5 sky130_fd_sc_hd__inv_1
Xi6 n5 0 0 VPWR VPWR n6 sky130_fd_sc_hd__inv_1
Xi7 n6 0 0 VPWR VPWR n7 sky130_fd_sc_hd__inv_1
Xi8 n7 0 0 VPWR VPWR n8 sky130_fd_sc_hd__inv_1
Xi9 n8 0 0 VPWR VPWR n9 sky130_fd_sc_hd__inv_1
Xi10 n9 0 0 VPWR VPWR n10 sky130_fd_sc_hd__inv_1
Xi11 n10 0 0 VPWR VPWR n11 sky130_fd_sc_hd__inv_1
Xi12 n11 0 0 VPWR VPWR n12 sky130_fd_sc_hd__inv_1
Xi13 n12 0 0 VPWR VPWR n13 sky130_fd_sc_hd__inv_1
Xi14 n13 0 0 VPWR VPWR n14 sky130_fd_sc_hd__inv_1
Xi15 n14 0 0 VPWR VPWR n15 sky130_fd_sc_hd__inv_1
Xi16 n15 0 0 VPWR VPWR n16 sky130_fd_sc_hd__inv_1
Xi17 n16 0 0 VPWR VPWR n17 sky130_fd_sc_hd__inv_1
Xi18 n17 0 0 VPWR VPWR n18 sky130_fd_sc_hd__inv_1
Xi19 n18 0 0 VPWR VPWR n19 sky130_fd_sc_hd__inv_1
Xi20 n19 0 0 VPWR VPWR n20 sky130_fd_sc_hd__inv_1
Xi21 n20 0 0 VPWR VPWR n21 sky130_fd_sc_hd__inv_1
Xi22 n21 0 0 VPWR VPWR n22 sky130_fd_sc_hd__inv_1
Xi23 n22 0 0 VPWR VPWR n23 sky130_fd_sc_hd__inv_1
Xi24 n23 0 0 VPWR VPWR n24 sky130_fd_sc_hd__inv_1
Xi25 n24 0 0 VPWR VPWR n25 sky130_fd_sc_hd__inv_1
Xi26 n25 0 0 VPWR VPWR n26 sky130_fd_sc_hd__inv_1
Xi27 n26 0 0 VPWR VPWR n27 sky130_fd_sc_hd__inv_1
Xi28 n27 0 0 VPWR VPWR n28 sky130_fd_sc_hd__inv_1
Xi29 n28 0 0 VPWR VPWR n29 sky130_fd_sc_hd__inv_1
Xi30 n29 0 0 VPWR VPWR n30 sky130_fd_sc_hd__inv_1
Xbuf n15 0 0 VPWR VPWR out sky130_fd_sc_hd__buf_1

Cn0_tot n0 0 2.364310e-16
Cn1_tot n1 0 1.192730e-16
Cn10_tot n10 0 3.080570e-16
Cn11_tot n11 0 3.650120e-16
Cn12_tot n12 0 3.804220e-16
Cn13_tot n13 0 3.757990e-16
Cn14_tot n14 0 3.889550e-16
Cn15_tot n15 0 6.317450e-16
Cn16_tot n16 0 1.290930e-16
Cn17_tot n17 0 1.311520e-16
Cn18_tot n18 0 1.152670e-16
Cn19_tot n19 0 1.152670e-16
Cn2_tot n2 0 1.216130e-16
Cn20_tot n20 0 1.135650e-16
Cn21_tot n21 0 1.135650e-16
Cn22_tot n22 0 5.376570e-16
Cn23_tot n23 0 3.245640e-16
Cn24_tot n24 0 3.721780e-16
Cn25_tot n25 0 3.696760e-16
Cn26_tot n26 0 3.717490e-16
Cn27_tot n27 0 3.944010e-16
Cn28_tot n28 0 3.944160e-16
Cn29_tot n29 0 3.802890e-16
Cn3_tot n3 0 1.221230e-16
Cn30_tot n30 0 1.112940e-15
Cn4_tot n4 0 1.221230e-16
Cn5_tot n5 0 1.198090e-16
Cn6_tot n6 0 1.316210e-16
Cn7_tot n7 0 5.869060e-16
Cn8_tot n8 0 3.103430e-16
Cn9_tot n9 0 3.997070e-16
Cout_tot out 0 1.006570e-15

.save v(out)
.tran 1p 140n
.control
run
meas tran tp TRIG v(out) VAL=0.8 RISE=5 TARG v(out) VAL=0.8 RISE=25
let f = 20 / tp
print f
.endc
.end
